* C:\Users\abhin\Desktop\AMRITA\AMFOSS\Kitchen-Hazard-Management-System\Sensors implementation\MQ6-sensor.asc
R1 PPM 0 50k
V1 PPM 0 PWL file=sensvalues.txt
V2 V_in 0 10V
R2 V_in V_sens R=249564*PWRS(V(PPM),-0.569)
R3 V_sens 0 5k
.tran 0 25s 0 1ms
.backanno
.end
