* C:\Users\abhin\Desktop\AMRITA\AMFOSS\Kitchen-Hazard-Management-System\Sensors implementation\TMP36-sensor.asc
V1 N001 0 9V
R1 N001 N002 1k
D1 N002 0 1N4148
RV1 N002 0 {R}
R3 Vout N001 220
Q1 Vout N002 0 0 BC547B
.model D D
.lib C:\Users\abhin\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\abhin\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 15s 0 1ms
.step param R 1 100 10
* TMP-36\nGROUP-6
.backanno
.end
